US04319052
Into the reactor described in Example 1 hereinbefore there are charged 58.5 g (0.25 g-mol) of 2,6-ditert.butyl4-ethylphenol, 1 g of a concentrated sulfuric acid and 19 g (0.25 g-mol) of methylal are added into the reactor at the temperature of 130° C. over 30 minutes. The reaction mass is treated and 26.2 g of 2,2'-methylene-bis-(4-ethyl-6-tert.butylphenol) are thus obtained which corresponds to 98.9% of the theoretical yield calculated for the reacted 2,6-ditert.butyl-4-ethylphenol (conversion of the latter is 57.5).

reactant | 2,6-ditert.butyl4-ethylphenol | 58.5 g | C(C)(C)(C)C1=C(C(=CC(=C1)CC)C(C)(C)C)O | C16H26O
reactant | sulfuric acid | 1 g | S(O)(O)(=O)=O | H2O4S
reactant | methylal | 19 g | COCOC | C3H8O2
product | 2,2'-methylene-bis-(4-ethyl-6-tert.butylphenol) | 26.2 g | C(C1=C(C(=CC(=C1)CC)C(C)(C)C)O)C1=C(C(=CC(=C1)CC)C(C)(C)C)O | C25H36O2
